US05281620
4-Bromomethyl-5-methylxanthenone
Powdered N-bromosuccinimide (5.0 g, 0.028 mol) was added to a warm solution of 4,5-dimethylxanthenone (prepared by the method of Schopff, Ber 1892, 25, 3642) in CCl4 (170 mL) containing benzoyl peroxide (40 mg), and the mixture was stirred at reflux temperature under UV irradiation (illumination) for 3 hours. Removal of the solvent under reduced pressure gave a residue which was extracted with CHCl3. The CHCl3 layer was washed with cold 1N aqueous NaOH and water (twice), then dried and evaporated to give the crude product, contaminated with starting material and the 4,5-dibromomethylxanthenone. Repeated crystallization from benzene-petroleum ether gave pure material as colourless needles (1.96 g, 29%), m.p. 171°-172° C. Anal. (C15H11BrO2) C,H,Br.

reactant | N-bromosuccinimide | 0.028 mol, 5.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 4,5-dimethylxanthenone | CC1=CC=CC=2C(C3=CC=CC(=C3OC12)C)=O | C15H12O2
reactant | benzoyl peroxide | 40 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | 4,5-dibromomethylxanthenone | BrCC1=CC=CC=2C(C3=CC=CC(=C3OC12)CBr)=O | C15H10Br2O2
solvent | CCl4 | 170 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Bromomethyl-5-methylxanthenone | 1.96 g, 29% | BrCC1=CC=CC=2C(C3=CC=CC(=C3OC12)C)=O | C15H11BrO2
